US07696223B2
a) 3-Methyl-1H-indole-2-carboxylic acid ethyl ester)
A mixture of phenyl hydrazine (8.92 g), 2-oxo-butyric acid (10.11 g), TsOH mono hydrate (47.1 g) in EtOH (200 mL) was refluxed overnight, then cooled, the solids were filtered off and briefly washed with EtOH, all liquids were combined and concentrated to give a residue, which was subsequently partitioned between EtOAc and water, the organic phase was washed with sat. NaHCO3 solution, and sat. NaCl solution respectively, then dried over anhydrous sodium sulfate, filtered, concentrated and crystallized to give product (15.6 g). 1H NMR (200 MHz, CDCl3): δ (ppm)=8.65 (br, s, 1H), 7.63 (d, 1H), 7.40-7.10 (m, 3H), 4.40 (q, 2H, J=7.1 Hz), 2.61 (s, 3H), 1.43 (t, 3H, J=7.1 Hz).

reactant | phenyl hydrazine | 8.92 g | C1(=CC=CC=C1)NN | C6H8N2
reactant | 2-oxo-butyric acid | 10.11 g | O=C(C(=O)O)CC | C4H6O3
reactant | EtOH | 200 mL | CCO | C2H6O
product | 3-Methyl-1H-indole-2-carboxylic acid ethyl ester | 15.6 g | C(C)OC(=O)C=1NC2=CC=CC=C2C1C | C12H13NO2
